US07435815B2
N-Benzyl-N-ethyl-2-[(2-methoxy-phenyl)-(naphthalene-2-sulfonyl)-amino]-acetamide
prepared by reaction of 2-bromoacetyl bromide with N-benzyl-N-ethylamine and naphthalene-2-sulfonic acid (2-methoxy-phenyl)-amide

reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | N-benzyl-N-ethylamine | C(C1=CC=CC=C1)NCC | C9H13N
reactant | naphthalene-2-sulfonic acid (2-methoxy-phenyl)-amide | COC1=C(C=CC=C1)NS(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C17H15NO3S
product | N-Benzyl-N-ethyl-2-[(2-methoxy-phenyl)-(naphthalene-2-sulfonyl)-amino]-acetamide | C(C1=CC=CC=C1)N(C(CN(S(=O)(=O)C1=CC2=CC=CC=C2C=C1)C1=C(C=CC=C1)OC)=O)CC | C28H28N2O4S
